US07816385B2
3-[7-(3-Hydroxy-propyl)-9H-fluoren-2-yl]-propan-1-ol
A mixture of sodium borohydride (3.7 g, 98 mmol) and lithium chloride (4.2 g, 101 mmol) in ethanol (70 ml) was stirred at 5° C. for 15 min, 9H-fluorene-2,7-diacrylic acid dimethyl ester (5.0 g, 15 mmol) in diglyme (150 ml) was added portionwise at 20-50° C. and the mixture was refluxed for 18 h. Diluted hydrochloric acid was added dropwise after cooling and the mixture was extracted with diethyl ether. Organic layer was separated, dried (MgSO4) and evaporated to give a residue, which was purified by chromatography on silica gel. Elution with ethyl acetate afforded 1.85 g (44%) of the title compound as white crystals.

reactant | sodium borohydride | 98 mmol, 3.7 g | [BH4-].[Na+]
reactant | lithium chloride | 101 mmol, 4.2 g | [Cl-].[Li+]
reactant | 9H-fluorene-2,7-diacrylic acid dimethyl ester | 15 mmol, 5.0 g | COC(C=CC1=CC=2CC3=CC(=CC=C3C2C=C1)C=CC(=O)OC)=O | C21H18O4
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | diglyme | 150 ml | COCCOCCOC | C6H14O3
product | 3-[7-(3-Hydroxy-propyl)-9H-fluoren-2-yl]-propan-1-ol | 1.85 g, 44% | OCCCC1=CC=C2C=3C=CC(=CC3CC2=C1)CCCO | C19H22O2
